US07820699B2
39.4 Using general procedure F {(R)-3-[(5-chloro-thiophene-2-carbonyl)-amino]-4-methylene-pyrrolidin-1-yl}-acetic acid ethyl ester was reacted with 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one (CAS 536747-52-1, prepared according to WO 2003045912) to give 5-chloro-thiophene-2-carboxylic acid ((R)-1-{[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-methyl}-4-methylene-pyrrolidin-3-yl)-amide. Yellow solid. MS 487.2 ([M+H]+)

reactant | {(R)-3-[(5-chloro-thiophene-2-carbonyl)-amino]-4-methylene-pyrrolidin-1-yl}-acetic acid ethyl ester | C(C)OC(CN1C[C@@H](C(C1)=C)NC(=O)C=1SC(=CC1)Cl)=O | C14H17ClN2O3S
reactant | 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one | NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)F | C11H9FN2O
product | 5-chloro-thiophene-2-carboxylic acid ((R)-1-{[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-methyl}-4-methylene-pyrrolidin-3-yl)-amide | FC1=C(C=CC(=C1)N1C(C=CC=C1)=O)NC(=O)CN1C[C@@H](C(C1)=C)NC(=O)C=1SC(=CC1)Cl | C23H20ClFN4O3S
